US05242944
To a solution of 6.8 g of 90% sodium cyanide dissolved in 6.5 ml of distilled water while being subjected to heating was added a solution of 15.5 g of 3,4-dimethylbenzyl chloride in 20 ml of dry ethanol; and the resultant mixture was heated at the boiling temperature for 10 hours and then cooled to room temperature. This solution was added to 50 ml of distilled water and extracted twice with 150 ml of ethyl ether. The organic solvent was removed to obtain 11.5 g(yield 79%) of 3,4-dimethylbenzyl cyanide, which was dissolved in 50 ml of dry tetrahydrofuran. The organic solution was slowly added to a dispersion of 6.0 g of LiALH4 suspended in 150 ml of dry tetrahydrofuran; and the mixture was heated at the boiling point for 14 hours. This reaction mixture was cooled to room temperature; and 16 ml of 1N NaOH and 8 ml of distilled water were slowly added thereto. Thereafter, this reaction mixture was filtered through a Celite layer to obtain solids, which were dissolved in a mixture of 250 ml of ethyl ether and 250 ml of ethyl alcohol and filtered. After the filtrate was basified with 5N NaOH aqueous solution and extracted with dichloromethane(200 ml×2), the solvent was evaporated and distilled under reduced pressure to provide 5.6 g(yield 48%) of the title compound.

reactant | sodium cyanide | 6.8 g | [C-]#N.[Na+]
reactant | 3,4-dimethylbenzyl chloride | 15.5 g | CC=1C=C(CCl)C=CC1C | C9H11Cl
solvent | water | 6.5 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 3,4-dimethylbenzyl cyanide | 11.5 g, yield 79% | CC=1C=C(CC#N)C=CC1C | C10H11N
